Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
low back pain, abdominal distention
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ yo M with a history of BPH and 
urinary retention who presents with 1 week of low back pain and 
abdominal bloating and is now found to have R CVA tenderness 
with ___ (Cr 3.1 from baseline 1.0) ___ bladder outlet 
obstruction +/- R ureteral stone. Over the past week, he has had 
low back pain and pressure, with a sensation of abdominal 
bloating. He couldn't get comfortable in bed at night, and while 
the back pain was initially bilateral, it eventually settled 
more on his R side. He finally decided to see his doctor after 
measuring a ___ temperature of 99.8 and then vomited 3x on 
___ night ___. He denies any dysuria, hematuria, or other 
change in the appearance of his urine. He also denies any other 
symptoms including diarrhea, chest pain, abdominal pain, 
shortness of breath, URI symptoms.
 
Past Medical History:
BPH
sciatica s/p steroid injection x2
retinal detachment s/p repair
 
Social History:
___
Family History:
PGM Deceased DIABETES TYPE II  
Father Living ___ DIABETES MELLITUS  
Mother Living ___  
Sister Living  
 
Physical ___:
===========================
ADMISSION EXAM:
===========================
 Vitals:  97.3  121/61  38  14  98%RA
 General: Alert, oriented, lying comfortably in bed in no acute 
distress
 HEENT: Sclerae anicteric, MMM
 Neck: JVP not elevated
 Lungs: CTAB no wheezes, rales, rhonchi  
 CV: RRR, Nl S1, S2, No MRG  
 Abdomen: soft, NT, ND, bowel sounds present, no rebound or 
guarding, no organomegaly, mild suprapubic pressure without 
tenderness
 GU: foley in place, light red urine in foley bag 
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CN2-12 intact, no focal deficits  

===========================
DISCHARGE EXAM:
===========================
 Vitals:  99.5  98.4  130/69  48 (60 manual)  18  95%RA
 Exam:  
 General: Alert, oriented, lying comfortably in bed in no acute 
distress
 HEENT: Sclerae anicteric, MMM
 Neck: JVP not elevated
 Lungs: CTAB no wheezes, rales, rhonchi  
 CV: RRR, Nl S1, S2, No MRG  
 Abdomen: soft, NT, ND, bowel sounds present, no rebound or 
guarding, no organomegaly, mild suprapubic pressure without 
tenderness
 GU: foley in place, light red urine in foley bag 
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: no focal deficits  
 
Pertinent Results:
===========================
ADMISSION LABS:
===========================
___ 09:25AM BLOOD WBC-8.2 RBC-4.02* Hgb-12.7* Hct-38.5* 
MCV-96 MCH-31.6 MCHC-33.0 RDW-12.9 RDWSD-45.4 Plt ___
___ 09:25AM BLOOD UreaN-37* Creat-3.1* Na-144 K-4.9 Cl-107 
HCO3-28 AnGap-14
___ 09:25AM BLOOD PSA-4.9*

===========================
PERTINENT LABS:
===========================
___ 09:05PM BLOOD Free T4-0.8*
___ 09:25AM BLOOD TSH-4.9*
___ 10:36AM BLOOD TSH-9.4*
___ 10:36AM BLOOD Glucose-97 UreaN-27* Creat-2.2* Na-143 
K-4.1 Cl-106 HCO3-25 AnGap-16
___ 09:05PM BLOOD Glucose-147* UreaN-22* Creat-1.9* Na-143 
K-3.6 Cl-105 HCO3-27 AnGap-15

===========================
IMAGING:
===========================
Renal U/S ___
IMPRESSION:  
1. Bilateral moderate hydroureteronephrosis. 
2. 9 mm right distal ureter obstructing stone. 
3. No left collecting system stone is identified. 
4. Distended urinary bladder and the patient is unable to void. 
This could potentially contribute to reflux with bilateral 
hydroureteronephrosis as above. 
5. Papillary like projections arising from the dependent aspect 
of the urinary bladder could represent bladder trabecula, 
although underlying papillary mass cannot be excluded. Recommend 
CT to further evaluate or direct visualization. 
RECOMMENDATION(S): CT to further evaluate the collecting system 
and bladder or direct visualization. 

CT Abd/Pelvis w/o Contrast ___
IMPRESSION: 
1. Moderate bilateral hydroureteronephrosis, however, without 
visualization of obstructing calculus or other obstructing 
focus. 
2. Bladder wall appears markedly thickened which in the setting 
of prominently enlarged prostate may be secondary to chronic 
outlet obstruction.  
RECOMMENDATION(S): Given bilateral hydroureteronephrosis without 

visualization of obstructing focus in the setting of prominent 
bladder wall thickening, direct visualization with cystoscopy is 
recommended. 

===========================
DISCHARGE LABS:
===========================
___ 06:17AM BLOOD WBC-10.0 RBC-4.32* Hgb-13.2* Hct-40.7 
MCV-94 MCH-30.6 MCHC-32.4 RDW-12.4 RDWSD-43.0 Plt ___
___ 06:17AM BLOOD Glucose-104* UreaN-20 Creat-1.7* Na-142 
K-3.9 Cl-105 HCO3-26 AnGap-15
 
Brief Hospital Course:
=========================
PRIMARY REASON FOR ADMISSION:
=========================
This is a ___ with a history of BPH and urinary retention who 
presents with 1 week of low back pain and abdominal bloating and 
is now found to have R CVA tenderness with ___ (Cr 3.1 from 
baseline 1.0) ___ bladder outlet obstruction +/- R ureteral 
stone. 

=========================
ACTIVE ISSUES:
=========================
 # ___: The patient's ___ was thought to be most likely 
postrenal ___ bladder outlet obstruction, given his relief of 
symptoms and large volume of urine drained after Foley 
placement. After Foley, Cr downtrended 3.1->2.2->1.9->1.7. He 
had significant post-obstructive diuresis after Foley placement, 
and his electrolytes were trended with no evidence of 
derangement. Renal ultrasound was read as R kidney stone but is 
likely artifactual finding vs. phlebolith, given no stone seen 
on CT just hours later (CT is definitive imaging study), fact 
that hydroureteronephrosis is bilateral, and no hematuria on UA 
done after Foley placement. The patient was seen by renal in ED 
who had no further recommendations. Urology recommended 
maintaining foley after discharge x 1 week with outpatient 
urology follow-up for voiding trial, and continuing on 0.4mg 
tamsulosin daily monotherapy (discontinuing doxazosin). He will 
also be given a prescription for oxybutynin and belladonna/opium 
suppositories to help with bladder spasms.

 # BPH: The patient's foley was maintained in place. He was 
given his home tamsulosin 0.4mg QHS, which he had not been 
taking regularly before this admission. His doxasozin was 
discontinued per urology recommendations with the thought that 
consistent adherence to his tamsulosin would be more effective 
in preventing future obstruction.

 # Suprapubic pain: After foley placement, the patient reported 
___ second episodes of sharp suprapubic pain associated with 
the sensation that he is involuntarily pushing urine out, which 
happened every few hours. Based on description, these were 
thought to likely represent bladder spasm due to decompression 
of chronically distended bladder. He was treated with oxybutynin 
5mg PO TID PRN and belladonna/opium suppositories PR BID PRN.

 # Bradycardia: Patient had HR 38-40 on arrival on floor. This 
improved to 68 with ambulation and in the setting of some new 
pain around his foley. Throughout his admission, he was 
intermittently bradycardic to the ___ at rest. He denied 
lightheadedness, chest pain, palpitations during any of these 
episodes. He was maintained on telemetry and several EKGs were 
done, which showed sinus bradycardia. These were though to 
likely be secondary to vagal stimulation from his bladder 
decompression vs. mild hypothyroidism (TSH 9.4, free T4 0.8).

=========================
TRANSITIONAL ISSUES:
=========================
 - Renal ultrasound shows papillary like projections arising 
from the dependent aspect of the urinary bladder which could 
represent bladder trabecula, although underlying papillary mass 
cannot be excluded. CT abd/pelvis shows prominent bladder wall 
thickening, for which direct visualization with cystoscopy is 
recommended. will need outpatient urology follow up for workup 
of bladder wall thickening.
 - Due to sinus bradycardia, TSH was sent. TSH mildly elevated 
at 9.4, free T4 mildly low at 0.8. Patient had sinus bradycardia 
to the ___ in-house, which could be due to this mild 
hypothyroidism.
 - Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 2 mg PO HS 
2. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Tamsulosin 0.4 mg PO QHS 
2. Belladonna & Opium (16.2/30mg) ___ID:PRN pain 
Please do not take for 24 hours prior to your urology 
appointment. 
3. Oxybutynin 5 mg PO TID:PRN pain, bladder spasms 
Please do not take for 24 hours prior to your urology 
appointment. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Bladder outlet obstruction
benign prostatic hyperplasia

Secondary diagnoses:
Bladder spasm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for investigation and 
treatment of your low back pain, abdominal bloating, and 
elevated kidney tests (creatinine). It was thought that these 
were most likely due to a bladder outlet obstruction caused by 
your enlarged prostate, which is in turn from your BPH (benign 
prostatic hyperplasia). You had a Foley catheter placed which 
allowed a large volume of urine to drain from your bladder 
(about 1.5L). After this, your kidney tests (creatinine) 
improved on several rechecks. You should keep this catheter in 
place until your ___ clinic visit with your urologist.

An ultrasound of the kidneys was done that showed a possible 
kidney stone in the right ureter (tube that leads from the 
kidney to the bladder). However, on CT scan (a more detailed 
study), no kidney stone was seen. The initial finding on your 
kidney ultrasound may have been due to limitations of the 
ultrasound study or a small calcification in the area called a 
phlebolith. You can follow up on these two studies during your 
appointment with your urologist. There is no treatment 
recommended at this time, since we think you most likely do not 
have a kidney stone.

You had some episodic pain in your pelvis after the Foley 
catheter was placed. Based on the characteristics of the pain, 
it is most likely due to bladder spasms, which can happen after 
the bladder has been stretched out over some time. At home, you 
can take the oxybutynin (pill) up to 3x per day or the 
belladonna/opium suppository up to 2x per day to relieve these 
spasm symptoms. Please do not use either medication for 24 hours 
prior to your urology visit so a voiding trial can be performed 
if needed.

In the hospital, your heart rate was slightly low on several 
occasions. You were monitored closely and several 
electrocardiograms (ECGs) were performed showing no concerning 
changes. Your low heart rate may have been due to the stretching 
of your bladder due to the bladder outlet obstruction, as well 
as the relief of this stretching. Your thyroid hormone levels 
were also checked in the hospital and were mildly low, which 
could be contributing to your mildly slow heart rate.

Thank you so much for allowing us to be a part of your care.

Best,
Your ___ Medicine Care Team
 
Followup Instructions:
___